US06255285B1
(1) Synthesis of Fmoc-D-Hyp-OH
262 mg (2.0 mmol) of D-Hyp-OH was dissolved in 5 ml of a saturated aqueous solution of sodium hydrogencarbonate under stirring and a mixture of 742 mg (2.2 mmol) of Fmoc-OSu and 10 ml of 1,4-dioxane was added dropwise under cooling with ice; thereafter, and the mixture was stirred at room temperature for 3 days. In the meantime, a saturated aqueous solution of sodium hydrogencarbonate was added as appropriate to keep the pH of the reaction mixture at 8-9. After being rendered acidic with hydrochloric acid under cooling with ice, the reaction mixture was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and saturated brine, dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crude product was purified by silica gel column chromatography (eluting solvents were chloroform and acetic acid supplemented chloroform:methanol=10:1); to remove the acetic acid used in eluting, the fractions were once concentrated under reduced pressure and dissolved again in ethyl acetate; thereafter, the solution was washed with water, dried with anhydrous magnesium sulfate and concentrated under reduced pressure to give a colorless powder in the amount of 660 mg (93%).

reactant | D-Hyp-OH | 2.0 mmol, 262 mg | N1[C@@H](C(=O)O)C[C@H](O)C1 | C5H9NO3
reactant | Fmoc-OSu | 2.2 mmol, 742 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)ON1C(=O)CCC1=O | C19H15NO5
reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | Fmoc-D-Hyp-OH | N1([C@@H](C(=O)O)C[C@H](O)C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C20H19NO5
